************************************************************************
* auCdl Netlist:
* 
* Library Name:  EECS391
* Top Cell Name: full_adder
* View Name:     schematic
* Netlisted on:  Apr 21 16:42:06 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EECS391
* Cell Name:    full_adder
* View Name:    schematic
************************************************************************

.SUBCKT full_adder a b c_in c_out gnd sum vdd
*.PININFO a:I b:I c_in:I c_out:O sum:O gnd:B vdd:B
MM26 c_out net43 gnd gnd NMOS_VTG W=400n L=50n m=1
MM25 sum net33 gnd gnd NMOS_VTG W=400n L=50n m=1
MM24 net40 a gnd gnd NMOS_VTG W=400n L=50n m=1
MM23 net41 b net40 gnd NMOS_VTG W=400n L=50n m=1
MM22 net33 c_in net41 gnd NMOS_VTG W=400n L=50n m=1
MM21 net31 c_in gnd gnd NMOS_VTG W=400n L=50n m=1
MM20 net31 b gnd gnd NMOS_VTG W=400n L=50n m=1
MM19 net31 a gnd gnd NMOS_VTG W=400n L=50n m=1
MM18 net42 a gnd gnd NMOS_VTG W=400n L=50n m=1
MM17 net43 b net42 gnd NMOS_VTG W=400n L=50n m=1
MM16 net20 b gnd gnd NMOS_VTG W=400n L=50n m=1
MM15 net43 c_in net20 gnd NMOS_VTG W=400n L=50n m=1
MM14 net20 a gnd gnd NMOS_VTG W=400n L=50n m=1
MM13 net33 net43 net31 gnd NMOS_VTG W=400n L=50n m=1
MM27 c_out net43 vdd vdd PMOS_VTG W=600n L=50n m=1
MM12 sum net33 vdd vdd PMOS_VTG W=600n L=50n m=1
MM11 net33 net43 net32 vdd PMOS_VTG W=600n L=50n m=1
MM10 net44 a vdd vdd PMOS_VTG W=600n L=50n m=1
MM9 net45 b net44 vdd PMOS_VTG W=600n L=50n m=1
MM8 net33 c_in net45 vdd PMOS_VTG W=600n L=50n m=1
MM7 net32 c_in vdd vdd PMOS_VTG W=600n L=50n m=1
MM6 net32 b vdd vdd PMOS_VTG W=600n L=50n m=1
MM5 net32 a vdd vdd PMOS_VTG W=600n L=50n m=1
MM4 net43 b net46 vdd PMOS_VTG W=600n L=50n m=1
MM3 net46 a vdd vdd PMOS_VTG W=600n L=50n m=1
MM2 net21 b vdd vdd PMOS_VTG W=600n L=50n m=1
MM1 net43 c_in net21 vdd PMOS_VTG W=600n L=50n m=1
MM0 net21 a vdd vdd PMOS_VTG W=600n L=50n m=1
.ENDS

